US03931205
A mixture of 16.5 g of ethyl 2-cyano-2-(5-oxo-5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionate, 80 ml of acetic acid and 35 ml of concentrated hydrochloric acid is heated under reflux for 24 hours. After concentration, water is added to the residue, and further a 10% sodium hydroxide solution is added to dissolve the residue. An insoluble material is removed by extraction with chloroform. The aqueous layer is made acid with acetic acid, and the crystalline precipitate is collected and recrystallized from aqueous dioxane to give 11 g of 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid as white needles melting at 194°-195°C.

reactant | ethyl 2-cyano-2-(5-oxo-5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionate | 16.5 g | C(#N)C(C(=O)OCC)(C)C=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C18H14N2O4
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 11 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(C(=O)O)C | C15H11NO4
